US07253186B2
N-(4-Fluorobenzyl)-2-(4-isobutoxyphenyl)-N-{1-[3-(2-oxo-piperidin-1-yl)propyl]piperidin-4-yl}acetamide (98AF73-64)
A solution of 1-(3-chloropropyl)-piperidin-2-one (32 mg, 0.18 mmol) in dry DMF (2 mL) was added to a suspension of potassium carbonate (52 mg, 0.38 mmol) and N-(4-fluorobenzyl)-2-(4-isobutoxyphenyl)-N-piperidin-4-yl-acetamide 103NLS56 (62 mg, 0.15 mmol) in dry DMF (2 mL). After addition of sodium iodide (25 mg, 0.17 mmol) the mixture was stirred overnight at 48° C. Afterwards it was partitioned between water and dichloromethane. The organic layer were dried over sodium sulphate, filtered and evaporated to dryness. Purification of the residue by reversed phase HPLC (C18) afforded the desired compound (2.6 mg, 3%).

reactant | 1-(3-chloropropyl)-piperidin-2-one | 0.18 mmol, 32 mg | ClCCCN1C(CCCC1)=O | C8H14ClNO
reactant | potassium carbonate | 0.38 mmol, 52 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(4-fluorobenzyl)-2-(4-isobutoxyphenyl)-N-piperidin-4-yl-acetamide | FC1=CC=C(CN(C(CC2=CC=C(C=C2)OCC(C)C)=O)C2CCNCC2)C=C1 | C24H31FN2O2
reactant | sodium iodide | 0.17 mmol, 25 mg | [I-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluorobenzyl)-2-(4-isobutoxyphenyl)-N-{1-[3-(2-oxo-piperidin-1-yl)propyl]piperidin-4-yl}acetamide | 2.6 mg, 3% | FC1=CC=C(CN(C(CC2=CC=C(C=C2)OCC(C)C)=O)C2CCN(CC2)CCCN2C(CCCC2)=O)C=C1 | C32H44FN3O3
